US08912188B2
To a solution of methyl 3-(isopropyl(methyl)amino)-2-(4-phenylfuran-2-yl)quinoxaline-6-carboxylate (70 mg, 0.17 mmol) in MeOH (20 mL) was added sodium hydroxide (28 mg, 0.70 mmol) and water (2 mL). The resulting solution was stirred overnight at room temperature and concentrated in vacuo. The residue was dissolved in water (3 mL) and adjusted to pH 6 with HCl (1N). The solids were collected by filtration to afford 3-(isopropyl(methyl)amino)-2-(4-phenylfuran-2-yl)quinoxaline-6-carboxylic acid (43 mg, 64%).

reactant | methyl 3-(isopropyl(methyl)amino)-2-(4-phenylfuran-2-yl)quinoxaline-6-carboxylate | 0.17 mmol, 70 mg | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C=1OC=C(C1)C1=CC=CC=C1)C | C24H23N3O3
reactant | sodium hydroxide | 0.70 mmol, 28 mg | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(isopropyl(methyl)amino)-2-(4-phenylfuran-2-yl)quinoxaline-6-carboxylic acid | 43 mg, 64% | C(C)(C)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C=1OC=C(C1)C1=CC=CC=C1)C | C23H21N3O3
